US07964608B2
4,6-Dichloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.836 mmol) was treated with 4-fluorobutylamine following general procedure B to afford 6-Chloro-4-(4-fluoro-butylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (185 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (105 mg) following general procedure E. The above ethylamide (100 mg, 0.28 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 9-chloro-3-ethyl-1-(4-fluoro-butyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (54 mg). LCMS: m/z 380 [M+1]+.

reactant | 4,6-Dichloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.836 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1Cl)Cl)OC | C13H11Cl2NO3
reactant | 4-fluorobutylamine | FCCCCN | C4H10FN
product | 6-Chloro-4-(4-fluoro-butylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 185 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1NCCCCF)Cl)OC | C17H20ClFN2O3
